US07608629B2
Preparation 48. 4-(6-Chloro-pyridin-2-yloxy)-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2
Add sodium hydride (95%, 0.318 g) to a solution of 4-hydroxy-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2 (preparation 3, 2.465 g) in DMSO (100 mL) and heat in an oil bath at 65° C. After 30 min., add 2,6-dichloropyridine (1.864 g) and beat at 100° C. After 4 hr., partition between ethyl acetate-hexane (1:4) and saturated aqueous NaCl aqueous NaCl, dry over anhydrous sodium sulfate, evaporate and purify on a 35 g silica gel column eluting with ethyl acetate-hexane (1:39) to give the title compound (3.26 g). 1H NMR (CDCl3): 7.50 (t, 1H), 6.87 (d, 1H), 6.61 (d, 1H), 5.38 (m, 1H), 4.35 (m, 1H), 3.89 (m, 1H), 3.22 (m, 1H), 1.93 (m, 3H), 1.75 (m, 1H), 1.46 (s, 9H), 1.26 (d, 3H).

reactant | sodium hydride | 0.318 g | [H-].[Na+]
reactant | 4-hydroxy-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)O)C | C11H21NO3
reactant | 2,6-dichloropyridine | 1.864 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 4-(6-Chloro-pyridin-2-yloxy)-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | 3.26 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)OC1=NC(=CC=C1)Cl)C | C16H23ClN2O3
